US20010055570A1
1-cyclopentyl-3-ethyl-6-(3-sec-butoxy-4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one
Especially preferred compounds for use in the invention include 5-[2-ethoxy-5-(4-methylpiperazinylsulfonyl)phenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one, 4-phenylmethylamino-6-chloro-2-(1-imidazolyl)quinazoline, 4-phenylmethylamino-6-chloro-2-(3-pyridyl)quinazoline, 1,3-dimethyl-6-(2-propoxy-5-methanesulfonylamidophenyl)-1,5-dihydropyrazolo[3,4-d]pyrimidin4-one and 1-cyclopentyl-3-ethyl-6-(3-ethoxy-4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one.

reactant | 5-[2-ethoxy-5-(4-methylpiperazinylsulfonyl)phenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C22H30N6O4S
reactant | 4-phenylmethylamino-6-chloro-2-(1-imidazolyl)quinazoline | C1(=CC=CC=C1)CNC1=NC(=NC2=CC=C(C=C12)Cl)N1C=NC=C1 | C18H14ClN5
reactant | 4-phenylmethylamino-6-chloro-2-(3-pyridyl)quinazoline | C1(=CC=CC=C1)CNC1=NC(=NC2=CC=C(C=C12)Cl)C=1C=NC=CC1 | C20H15ClN4
reactant | 1-cyclopentyl-3-ethyl-6-(3-ethoxy-4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=C(C=NC=C2)OCC)CC | C19H23N5O2
product | 1-cyclopentyl-3-ethyl-6-(3-sec-butoxy-4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=C(C=NC=C2)OC(C)CC)CC | C21H27N5O2
